datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(Cc1nnnn1-c1ccccc1)[O:21][H:20].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[n:10]4)[nH+]3)n2)c[nH+]1>>O=C(Cc1nnnn1-c1ccccc1)[O-:21].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[n+:10]4[H:20])[nH+]3)n2)c[nH+]1 10=20;20,21=21",
"Oc1ccccc1-c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccccc1-c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+:21](C)(CC(CSC#N)SC#N)[H:20].c1ncc2cn[n-:10]c2n1>>C[N:21](C)CC(CSC#N)SC#N.c1ncc2cn[n:10]([H:20])c2n1 10=20;20,21=21",
"CC(C)(C)CC(=O)n1cc[n+:21]([H:20])c1.O/N=C/c1ccc([O-:10])cc1>>CC(C)(C)CC(=O)n1cc[n:21]c1.O/N=C/c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"Brc1ccc(CC[NH2:10])cc1.CCC(=O)C(CC[N+:21](C)(C)[H:20])(c1ccccc1)c1ccccc1>>Brc1ccc(CC[NH2+:10][H:20])cc1.CCC(=O)C(CC[N:21](C)C)(c1ccccc1)c1ccccc1 10=20;20,21=21",
"C[NH+](C)CC[N:10](C)C.[Se-]CCC[NH2+:21][H:20]>>C[NH+](C)CC[N+:10](C)(C)[H:20].[Se-]CCC[NH2:21] 10=20;20,21=21",
"O=[N+]([O-])c1cc(Cl)ccc1[O-:10].O=[N+]([O-])c1cccc([S:21][H:20])c1>>O=[N+]([O-])c1cc(Cl)ccc1[O:10][H:20].O=[N+]([O-])c1cccc([S-:21])c1 10=20;20,21=21",
"C1CNC[NH:10]C1.C[NH+](C)CCC[N+:21](C)(CCC[NH+](C)C)[H:20]>>C1CNC[NH+:10]([H:20])C1.C[NH+](C)CCC[N:21](C)CCC[NH+](C)C 10=20;20,21=21",
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:21][H:20].Cc1c2c(nc[n:10]1)NCCN2>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:21].Cc1c2c(nc[n+:10]1[H:20])NCCN2 10=20;20,21=21",
"CCCC1CCC[N:10]1C.O=C(C1=CC=C[Se]1)[O:21][H:20]>>CCCC1CCC[N+:10]1(C)[H:20].O=C(C1=CC=C[Se]1)[O-:21] 10=20;20,21=21",
"C/C=C/C#CC(=O)[O-:10].FC(F)(F)c1[nH]c2cncnc2[n+:21]1[H:20]>>C/C=C/C#CC(=O)[O:10][H:20].FC(F)(F)c1[nH]c2cncnc2[n:21]1 10=20;20,21=21",
"CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O:21][H:20].O=C(C(=O)[O-:10])C(c1ccccc1)c1ccccc1>>CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O-:21].O=C(C(=O)[O:10][H:20])C(c1ccccc1)c1ccccc1 10=20;20,21=21",
"CC(=O)c1cc[n+:21]([H:20])cc1.C[N-:10][N+](=O)[O-]>>CC(=O)c1cc[n:21]cc1.C[N:10]([N+](=O)[O-])[H:20] 10=20;20,21=21",
"C[n+]1cccc2c([O-:10])cccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[n+]1cccc2c([O:10][H:20])cccc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[NH:10]c1ccccc1.[NH3+]c1ccc(-c2sc3ccccc3[n+:21]2[H:20])cc1>>CC(C)[NH+:10](c1ccccc1)[H:20].[NH3+]c1ccc(-c2sc3ccccc3[n:21]2)cc1 10=20;20,21=21",
"O=[N+]([O-])[N-]c1nnn[n-:10]1.c1cncc(CCCCC[NH2+:21][H:20])c1>>O=[N+]([O-])[N-]c1nnn[n:10]1[H:20].c1cncc(CCCCC[NH2:21])c1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]C.C[Si](C)(CN)O[Si](C)(C)C[NH2+:21][H:20]>>C=C(C)C(=O)OCC[NH+:10](C)[H:20].C[Si](C)(CN)O[Si](C)(C)C[NH2:21] 10=20;20,21=21",
"CC(C)Cc1cnc(CC(C)C)c([O:21][H:20])[nH+]1.O=[PH]([O-])C(c1ccccc1O)[NH:10]Cc1cccnc1>>CC(C)Cc1cnc(CC(C)C)c([O-:21])[nH+]1.O=[PH]([O-])C(c1ccccc1O)[NH+:10](Cc1cccnc1)[H:20] 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]c[n:10]1)NC(=O)c1cccc(CNCC[NH3+])n1.Cc1nc2ccccc2[n+:21]([H:20])c1[O-]>>CCCNC(=O)C(Cc1c[nH]c[n+:10]1[H:20])NC(=O)c1cccc(CNCC[NH3+])n1.Cc1nc2ccccc2[n:21]c1[O-] 10=20;20,21=21",
"COc1ccc(C(=O)[O:21][H:20])cc1C.Cc1cccc(C(=O)[O-:10])c1[N+](=O)[O-]>>COc1ccc(C(=O)[O-:21])cc1C.Cc1cccc(C(=O)[O:10][H:20])c1[N+](=O)[O-] 10=20;20,21=21",
"C1CC[S+:21]([H:20])C1.[NH3+]C(c1ncc[nH]1)c1[nH]cc[n:10]1>>C1CC[S:21]C1.[NH3+]C(c1ncc[nH]1)c1[nH]cc[n+:10]1[H:20] 10=20;20,21=21",
"CCc1c(O)n(C)[n+:21]([H:20])c1C.O=Cc1ccncc1[O-:10]>>CCc1c(O)n(C)[n:21]c1C.O=Cc1ccncc1[O:10][H:20] 10=20;20,21=21",
"CCCC[N:10](CCCC)c1ccccc1.CCc1c(-c2ccccc2)nn(C2CC[N+:21](C)([H:20])CC2)c1[O-]>>CCCC[N+:10](CCCC)(c1ccccc1)[H:20].CCc1c(-c2ccccc2)nn(C2CC[N:21](C)CC2)c1[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=Cc1ccc(C[NH2:10])o1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=Cc1ccc(C[NH2+:10][H:20])o1 10=20;20,21=21",
"CC[NH:10]C(C)C.CN(C)c1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n+:21]([H:20])c12>>CC[NH+:10](C(C)C)[H:20].CN(C)c1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n:21]c12 10=20;20,21=21",
"CC(C)n1c[n:10]c2ccccc21.O=S(=O)(c1ccc(/N=C/c2ccccc2[O-])cc1)[NH:21][H:20]>>CC(C)n1c[n+:10]([H:20])c2ccccc21.O=S(=O)(c1ccc(/N=C/c2ccccc2[O-])cc1)[NH-:21] 10=20;20,21=21",
"C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccccc1O)[H:20].NC1=NS(=O)(=O)[N-]c2nc[n-:10]c21>>C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccccc1O.NC1=NS(=O)(=O)[N-]c2nc[n:10]([H:20])c21 10=20;20,21=21",
"CCCCCCCCCC[NH:10]Cc1ccc(C)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C#N)CC(=O)[O-:10].C[NH+](C)Cc1cccc(NC(=O)/C=N/[O:21][H:20])c1>>CC(C#N)CC(=O)[O:10][H:20].C[NH+](C)Cc1cccc(NC(=O)/C=N/[O-:21])c1 10=20;20,21=21",
"O=S(=O)([O-])c1cc[n+:21]([H:20])cc1.[O-]c1c2nccnc2cc[n:10]1>>O=S(=O)([O-])c1cc[n:21]cc1.[O-]c1c2nccnc2cc[n+:10]1[H:20] 10=20;20,21=21",
"CCOC(=O)C(=N[O:21][H:20])C(=O)OCC.Cc1cc(Nc2ccc([O-:10])cc2)c(C(C)C)cc1O>>CCOC(=O)C(=N[O-:21])C(=O)OCC.Cc1cc(Nc2ccc([O:10][H:20])cc2)c(C(C)C)cc1O 10=20;20,21=21",
